US06482852B2
(a) 4-(4-Carbamoyl-3-hydroxy-phenoxy)-butyric acid ethyl ester
To 2,4-dihydroxybenzamide (16.5 g, 108.3 mmol) in DMF (100 mL) was added Cs2CO3 (39.0 g, 119.1 mmol) followed by ethyl 4-bromobutyrate (17.0 mL, 119.1 mmol). The mixture was heated to 70° C. for 2 h, cooled, diluted with water and extracted with EtOAc. The combined extracts were washed with water, dried over magnesium sulfate, concentrated, and chomatographed over silica gel (60% EtOAc/hexane) to a white solid (4.2 g, 15%). MS [M+H]− 267.

reactant | 2,4-dihydroxybenzamide | 108.3 mmol, 16.5 g | OC1=C(C(=O)N)C=CC(=C1)O | C7H7NO3
reactant | Cs2CO3 | 119.1 mmol, 39.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl 4-bromobutyrate | 119.1 mmol, 17.0 mL | BrCCCC(=O)OCC | C6H11BrO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(4-Carbamoyl-3-hydroxy-phenoxy)-butyric acid ethyl ester | C(C)OC(CCCOC1=CC(=C(C=C1)C(N)=O)O)=O | C13H17NO5
